### PR TITLE
[Merged by Bors] - feat: improve `fin_cases` on `DihedralGroup`

### PR DESCRIPTION
**Pull request by ldct**
Better version of https://github.com/leanprover-community/mathlib4/pull/33504

This PR:

- Renames `fintypeHelper` -> `equivSum` and flips the direction
- Makes `equivSum` public
- Generates lemmas via `@[simps]`
- The deprecation of `fintypeHelper` is unnecessary because it is private

The same motivating example still works; after using `fin_cases <;> dsimp` on a goal about a finite dihedral group, we're left with simple goal states.

```
example (g : DihedralGroup 3) : (g^6 = 1) := by
  fin_cases g
  <;> dsimp

unsolved goals
case «0»
n : ℕ
⊢ r 0 ^ 6 = 1


case «1»
n : ℕ
⊢ r 1 ^ 6 = 1


case «2»
n : ℕ
⊢ r 2 ^ 6 = 1


case «3»
n : ℕ
⊢ sr 0 ^ 6 = 1


case «4»
n : ℕ
⊢ sr 1 ^ 6 = 1


case «5»
n : ℕ
⊢ sr 2 ^ 6 = 1
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 1]
```diff
@@ -130,34 +130,38 @@ theorem r_pow (i : ZMod n) (k : ℕ) : (r i) ^ k = r (i * k : ZMod n) := by
...
   left_inv := by rintro (x | x) <;> rfl
   right_inv := by rintro (x | x) <;> rfl
 
-set_option backward.privateInPublic true in
-set_option backward.privateInPublic.warn false in
+/-- The equivalence between the sum of `ZMod`s and the dihedral group. -/
+@[deprecated DihedralGroup.equivSum (since := "2026-03-12")]
+abbrev fintypeHelper : (ZMod n) ⊕ (ZMod n) ≃ DihedralGroup n :=
+  equivSum.symm
+
```
Comment (Komyyy) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean]:
```suggestion
```

Sorry, I forgot that private decls shouldn't be deprecated.

**Review by Komyyy — COMMENTED** [review]
Thank you for your contribution!

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean
Comment (Komyyy) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:1]: Could you edit the PR message?

---

```markdown
- Deprecates `fintypeHelper`
```
↓↓↓
```markdown
- The deprecation of `fintypeHelper` is unnecessary because it is private
```

---

```markdown
- Exports `equivSum`
```
↓↓↓
```markdown
- Makes `equivSum` public
```

Because it is confusing with [the `export` command](https://lean-lang.org/doc/reference/latest/find/?domain=Verso.Genre.Manual.section&name=The-Lean-Language-Reference--Namespaces-and-Sections--Namespaces--Exporting-Names)

**Review by Komyyy — COMMENTED** [review]
Thank you!
I have already reviewed your original PR #33504.

maintainer delegate

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean
Comment (bryangingechen) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:1]: I have made the suggested PR message edits directly.
